US06022906
1-[4-(2,3-dihydroxy-4-mercaptobutylthio)phenyl]-2-methyl-2-morpholine-4-yl-propane-1-one
1.0 g (4.0 mmol) of 1-[4-(4-mercaptophenylthio)phenyl]-2-methyl-2-morpholine-4-yl-propane-1-one and 1.37 g (8.9 mmol) of 1,4-dimercapto-2,3-butanediol are dissolved in 50 ml of dry dimethylacetamide, 1.10 g (8.0 mmol) of potassium carbonate are added and the mixture is stirred for 17 h. The resulting suspension is poured into water and extracted with ethyl acetate, the combined organic phases are washed with water. The solvent is distilled off and the residual oil is purified by column chromatography on silica gel with ethanol-methylene chloride (5:95) as eluent. The structure is confirmed by the 1H-NMR-spectrum, measured in CDCl3. The signals (δ in ppm) are 1.31 (s,6H), 1.55 (t,1 H), 2.57 (m,4H), 2.75 (m, 1H), 3.24 (m,5H), 3.70 (m,5H), 4.18 (s,1H), 7.53 (d,2H), 8.49 (d,2H).

reactant | 1-[4-(4-mercaptophenylthio)phenyl]-2-methyl-2-morpholine-4-yl-propane-1-one | 4.0 mmol, 1.0 g | SC1=CC=C(C=C1)SC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O | C20H23NO2S2
reactant | 1,4-dimercapto-2,3-butanediol | 8.9 mmol, 1.37 g | SCC(C(CS)O)O | C4H10O2S2
reactant | potassium carbonate | 8.0 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylacetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | 1-[4-(2,3-dihydroxy-4-mercaptobutylthio)phenyl]-2-methyl-2-morpholine-4-yl-propane-1-one | OC(CSC1=CC=C(C=C1)C(C(C)(N1CCOCC1)C)=O)C(CS)O | C18H27NO4S2
